US05886181
1-Trifluoroacetyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide
50 ml of trifluoroacetic acid was placed in a 500 ml flask under argon. 12.5 g of methanesulfonic acid was added dropwise at 21° C. and 20 g of 2-cyano-1,4,5,6-tetrahydropyrazine methanesulfonic acid salt (97 mmol) was then added in portions, a slight exothermicity being observed. 10 g (178 mmol) of isobutane was then introduced over 1 hour at 20° C. The reaction mixture was stirred for a further 2 hours at 20° C., 13.3 g (111 mmol) of thionyl chloride was then added dropwise at this temperature and stirring was continued for a further 20 hours. 250 ml of dichloromethane was then added, followed by 25 g of sodium acetate in portions. After filtration of the crude solution through Celite®, 30 ml of water was added and the phases were separated. The organic phase was concentrated to dryness. The residual crude product (27.88 g) was chromatographed with ethyl acetate/methanol (4:1) on 300 g of silica gel. The yield (GC) was 29.2 percent. The melting point of the title compound was: 158° to 160° C. (from n-butyl acetate). Other data concerning the title compound was:

reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanesulfonic acid | 12.5 g | CS(=O)(=O)O | CH4O3S
reactant | 2-cyano-1,4,5,6-tetrahydropyrazine methanesulfonic acid salt | 97 mmol, 20 g | CS(=O)(=O)O.C(#N)C=1NCCNC1
reactant | isobutane | 178 mmol, 10 g | CC(C)C | C4H10
reactant | thionyl chloride | 111 mmol, 13.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium acetate | 25 g | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 1-Trifluoroacetyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C=1N(CCNC1)C(C(F)(F)F)=O | C11H16F3N3O2
